US05585388
4-Bromophenyl-tert-butyldimethylsilyl ether
4-Bromophenol (5.76 g, 30 mmol), imidazole (4.08 g, 60 mmol) and tert-butyldimethylsilyl chloride (5.02 g, 33 mmol) were stirred in anhydrous DMF (100 mL) at 25° C. for 18 h. The reaction mixture was then poured into water (100 mL) and extracted with ethyl acetate (2×75 mL). The combined extracts were washed with water (2×75 mL), brine (75 mL) and dried (MgSO4) before concentration in vacuo. The crude product was chromatographed on silica gel with ethyl acetate:hexane (1:4) as eluant to afford the title compound as an oil, 7.9 g, 92%. 1H NMR (CDCl3, 300 MHz): δ7.33 (app. dt, J=9 Hz, 3 Hz and 1 Hz, 2H), 6.73 (app. dt, J=9 Hz, 3 Hz and 1 Hz, 2H) 0.98 (s, 9H), 0.21 (s, 6H).

reactant | 4-Bromophenol | 30 mmol, 5.76 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | imidazole | 60 mmol, 4.08 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 33 mmol, 5.02 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | water | 100 mL | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4-Bromophenyl-tert-butyldimethylsilyl ether | BrC1=CC=C(C=C1)C[Si](C)(C(C)(C)C)O[Si](C(C)(C)C)(C)CC1=CC=C(C=C1)Br | C24H36Br2OSi2
